US05525742
Step B-2. To a stirred suspension of N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester (B-1, 1.09 g, 2.69 mmol) in isopropanol (20 mL) is added tert-amylamine (0.95 mL, 8.08 mmol). The reaction mixture is heated to reflux for 2.5 hour. The cooled reaction mixture is concentrated and the residue is diluted with ether (50 mL) and washed with 1 N aqueous sodium hydroxide (2×15 ml). The aqueous is extracted with ether (2×30 mL). The combined organics are dried (MgSO4), filtered and concentrated. The organic residue is purified by flash chromatography using 25% ethyl acetate in hexane as an eluent to afford 0.694 g of N-(3-azido-5-iodophenyl)-N'-cyano-N"-(1,1-dimethylpropyl)guanidine (B-2) as a foam. IR (mull) 3310, 3251, 3077, 2954, 2924, 2869, 2854, 2174, 2109, 1603, 1582, 1572, 1497, 1457, 1421, 1408, 1366, 1301, 1231, 844 cm-1 ; 1H NMR (CDCl3)δ8.29 (bs, 1 H), 7.33 (t, 1 H, J=2 Hz), 7.24 (t, 1 H, J=2 Hz), 6.83 (t, 1 H, J=2 Hz), 4.64 (bs I H), 1.70 (q, 2 H, J=7 Hz), 1.32 (s, 6 H), 0.84 (t, 3 H, J=7 Hz); 13C NMR (CDCl3) δ156.7, 142.7, 138.5, 129.0, 125.4, 116.9, 114.2, 94.8, 55.6, 32.9, 26.3, 8.1; Mass Spec (70eV, EI) m/z 397 (parent), 369, 328, 299, 258, 242, 232, 213, 172, 145, 130, 105, 71, 55, 43 (base); Exact mass calculated for C13H16IN7 : 397.0514. Found: 397.0532.

reactant | N-(3-azido-5-iodophenyl)-N'-cyanocarbamimidic acid, phenyl ester | 2.69 mmol, 1.09 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(OC1=CC=CC=C1)=NC#N | C14H9IN6O
reactant | tert-amylamine | 8.08 mmol, 0.95 mL | C(C)(C)(CC)N | C5H13N
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | N-(3-azido-5-iodophenyl)-N'-cyano-N"-(1,1-dimethylpropyl)guanidine | 0.694 g | N(=[N+]=[N-])C=1C=C(C=C(C1)I)NC(=NC(CC)(C)C)NC#N | C13H16IN7
